US04490369
7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
A suspension of 21.9 gm (0.1 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one and 1.5 gm of 10% palladium-on-charcoal in 200 ml of glacial acetic acid was hydrogenated at 50° C. and at a hydrogen pressure of 5 bar. After the catalyst had been filtered off, the solvent was evaporated in vacuo, and the residue was taken up in methylene chloride. After the solution had been extracted with an aqueous sodium bicarbonate solution and washed with water, it was dried over magnesium sulfate, evaporated and purified over silica gel with methylene chloride and then with increasing amounts of methanol (up to 10%).

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.1 mol, 21.9 gm | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 1.5 gm | [Pd] | Pd
product | 7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
